US08809342B2
(±)-Ethyl 4-(1-((tert-butoxycarbonyl)(5-(4-(trifluoromethyl)phenyl)pyrazin-2-yl)amino)butyl)benzoate
A round bottom flask was charged with triphenylphosphine (2.64 g, 10.0 mmol), diisopropylazodicarboxylate (1.99 mL, 10.0 mmol) and THF (23 mL) at 0° C. After the ylid crashed out of solution (less than 10 minutes), tert-butyl (5-(4-(trifluoromethyl)phenyl)pyrazin-2-yl)carbamate (3.10 g, 9.10 mmol) and (±)-ethyl 4-(1-hydroxybutyl)benzoate (2.03 g, 9.14 mmol) followed by THF (10 mL). Reaction stirred at room temperature overnight. Reaction diluted with DCM and ammonium chloride solution (aq. sat.) and transferred to an extraction funnel. Aqueous extracted twice with DCM. Combined organic layers washed with brine (1×), dried over sodium sulfate, filtered and concentrated to provide the crude material. Purification by silica gel flash chromatography (MeOH/DCM) provide the title compound as a yellow gum (4.86 g, 98.0%). 1H NMR (400 MHz, CHLOROFORM-d) δ 0.96 (t, 3 H) 1.36 (s, 9 H) 1.37-1.54 (m, 5 H) 2.06-2.18 (m, 1 H) 2.23-2.35 (m, 1 H) 4.38 (q, J=7.24 Hz, 2 H) 5.77 (dd, J=9.10, 6.55 Hz, 1 H) 7.51 (d, J=8.61 Hz, 2H) 7.76 (d, J=8.61 Hz, 2H) 7.95-8.02 (m, 2H) 8.12 (d, J=8.22 Hz, 2H) 8.74 (d, J=1.37 Hz, 1 H) 8.83 (d, J=1.56 Hz, 1 H); MS (M+1): 544.5.

reactant | triphenylphosphine | 10.0 mmol, 2.64 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 10.0 mmol, 1.99 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | tert-butyl (5-(4-(trifluoromethyl)phenyl)pyrazin-2-yl)carbamate | 9.10 mmol, 3.10 g | FC(C1=CC=C(C=C1)C=1N=CC(=NC1)NC(OC(C)(C)C)=O)(F)F | C16H16F3N3O2
reactant | (±)-ethyl 4-(1-hydroxybutyl)benzoate | 9.14 mmol, 2.03 g | OC(CCC)C1=CC=C(C(=O)OCC)C=C1 | C13H18O3
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 23 mL | C1CCOC1 | C4H8O
product | (±)-Ethyl 4-(1-((tert-butoxycarbonyl)(5-(4-(trifluoromethyl)phenyl)pyrazin-2-yl)amino)butyl)benzoate | 4.86 g, 98.0% | C(C)(C)(C)OC(=O)N(C(CCC)C1=CC=C(C(=O)OCC)C=C1)C1=NC=C(N=C1)C1=CC=C(C=C1)C(F)(F)F | C29H32F3N3O4
